US08114881B2
b) N,N,5-Trimethyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxamide
A mixture of 5-methyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxylic acid (0.21 g, 0.7 mmol), HATU (0.266 g, 0.7 mmol) and Et3N (0.293 g, 2.9 mmol) in DMF (2 ml) was reacted with dimethylamine HCl. After 2 h, the reaction mixture was diluted with water and extracted with ethyl acetate (3×5 ml). The organic phase was dried (MgSO4), filtered and evaporated. No further purification was performed.

reactant | 5-methyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxylic acid | 0.7 mmol, 0.21 g | CC=1N(C(C(=NC1)C(=O)O)=O)C1=CC(=CC=C1)C(F)(F)F | C13H9F3N2O3
reactant | HATU | 0.7 mmol, 0.266 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 2.9 mmol, 0.293 g | CCN(CC)CC | C6H15N
reactant | dimethylamine HCl | Cl.CNC
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N,N,5-Trimethyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxamide | CN(C(=O)C1=NC=C(N(C1=O)C1=CC(=CC=C1)C(F)(F)F)C)C | C15H14F3N3O2
